US08071608B2
(2S)-2-[1-(2-chloro-6-cyano-phenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-[(1R)-2-hydroxy-1-methyl-ethoxy]-N-(5-methylpyrazin-2-yl)propanamide Alternative method
Hydrochloric acid (6M, 4 equivs) was added with stirring to a solution of (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide (Intermediate AZ1) (1 equiv) in propan-2-ol (9 rel vols) in an inert atmosphere at ambient temperature. The mixture was stirred for 6 hours then basified carefully with aqueous sodium bicarbonate solution. The volume was reduced to half of the original volume by distillation under reduced pressure and then ethyl acetate and water were added. The mixture was stirred and then the phases were separated. The aqueous phase was extracted with ethyl acetate and the combined organic extract and washings were dried by azeotropic distillation. The product was crystallised from a mixture of ethyl acetate/heptane (5:6 vols). Yield 84%.

reactant | Hydrochloric acid | 6M | Cl | ClH
reactant | (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide | 1 equiv | ClC1=C(C(=CC=C1)C#N)N1N=CC=2C1=NC=NC2O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C32H41ClN8O4Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | propan-2-ol | CC(C)O | C3H8O
product | (2S)-2-[1-(2-chloro-6-cyano-phenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-[(1R)-2-hydroxy-1-methyl-ethoxy]-N-(5-methylpyrazin-2-yl)propanamide | Yield 84% | ClC1=C(C(=CC=C1)C#N)N1N=CC=2C(=NC=NC21)O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO)C | C23H21ClN8O4
